US05589527
In a reaction vessel equipped with a stirrer, a cooling tube, a nitrogen introducing tube and a thermometer, 78.1 parts of 2-mercaptoethanol was charged, and 2-mercaptoethanol was diluted with 159.6 parts of MIBK. Then, 0.41 part of dimethylbenzylamine was added, and after heating to 50° C., 81.5 parts of glycidol was added dropwise with stirring over 3 hours in a dry nitrogen atmosphere. The reaction vessel was cooled and maintained at 50° C. 2 Hours after dropping, it was confirmed that an absorption of --SH (2540 cm-1) and an absorption of a glycidyl group (910 cm-1) are disappeared by the measurement of infrared spectra. Further, the reaction product had no mercapto-like odor. Thereafter, MIBK was removed under reduced pressure to give 1-(2-hydroxyethylthio)-2,3-propanediol as a viscous liquid. Yield was 90% of the charge weight.

reactant | 2-mercaptoethanol | SCCO | C2H6OS
reactant | dimethylbenzylamine | CN(CC1=CC=CC=C1)C | C9H13N
reactant | glycidol | C1C(O1)CO | C3H6O2
solvent | MIBK | CC(C)CC(=O)C | C6H12O
product | 1-(2-hydroxyethylthio)-2,3-propanediol | Yield was 90% | OCCSCC(CO)O | C5H12O3S
